US08957078B2
Hydrazine hydrate (25.56 mg, 25.03 μL, 0.5106 mmol) was added to a solution of 2-(3-methyl-4-pyrrolidin-1-yl-isothiazol-5-yl)isoindoline-1,3-dione (160 mg, 0.5106 mmol) in EtOH (5 mL) and the mixture was stirred at RT for 10 min. The mixture was heated for 15 min at 120° C. in a microwave, then was concentrated in vacuo. The residue was purified by fractionlynx. The clean fractions were concentrated in vacuo and dried by azeotropic distillation with toluene (×2) to yield 3-methyl-4-(pyrrolidin-1-yl)isothiazol-5-amine as pale yellow solid. (61.7 mg, 59.9% over two steps). MS (ES+) 184.1.

reactant | Hydrazine hydrate | 0.5106 mmol, 25.03 μL, 25.56 mg | O.NN
reactant | 2-(3-methyl-4-pyrrolidin-1-yl-isothiazol-5-yl)isoindoline-1,3-dione | 0.5106 mmol, 160 mg | CC1=NSC(=C1N1CCCC1)N1C(C2=CC=CC=C2C1=O)=O | C16H15N3O2S
solvent | EtOH | 5 mL | CCO | C2H6O
product | 3-methyl-4-(pyrrolidin-1-yl)isothiazol-5-amine | CC1=NSC(=C1N1CCCC1)N | C8H13N3S
